US06331653B1
Synthesis of 2-chloro-3-isobutoxycyclobutanone (compound (IV)) (Process 1)
A solution formed by dissolving 30.0 g of isobutyl vinyl ether (0.3 mol) as the compound (V) and 34.9 g of chloroacetyl chloride (0.3 mol) as the compound (VI) in 135 ml of tert-butyl methyl ether was heated to 50˜55° C. with stirring. Subsequently, a solution formed by dissolving 30.3 g of N-methylmorpholine (with a pKa value of 7.4) (0.3 mol) in 45 ml of tert-butyl methyl ether was added dropwise to the aforementioned solution over two hours. Four hours after the completion of the dropwise addition, 40 ml of water was added thereto in order to separate the solution, followed by removal of the water layer. Analysis of the organic layer using gas chromatography under the following analysis conditions, revealed a yield of 75.8% for the compound (IV), 2-chloro-3-isobutoxycyclobutanone. Furthermore, after concentration of the aforementioned organic layer, a sample for analysis was obtained by means of distillation, and analyzed by means of elemental analysis and nuclear magnetic resonance analysis (NMR).

reactant | isobutyl vinyl ether | 0.3 mol, 30.0 g | C(=C)OCC(C)C | C6H12O
reactant | chloroacetyl chloride | 0.3 mol, 34.9 g | ClCC(=O)Cl | C2H2Cl2O
reactant | N-methylmorpholine | 30.3 g | CN1CCOCC1 | C5H11NO
reactant | water | 40 ml | O | H2O
solvent | tert-butyl methyl ether | 135 ml | COC(C)(C)C | C5H12O
solvent | tert-butyl methyl ether | 45 ml | COC(C)(C)C | C5H12O
product | 2-chloro-3-isobutoxycyclobutanone | yield of 75.8% | ClC1C(CC1OCC(C)C)=O | C8H13ClO2
